US20010011086A1
Preparation of 3-Hydroxybiphenyl
A stirred mixture of 660 mg (3 mmol) of 3-iodophenol, 439 mg (3.6 mmol) phenylboronic acid, and 173 mg (0.15 mmol) tetrakistriphenylphosphine in 10 mL of toluene, 5 mL ethanol, and 6 mL 2M sodium carbonate (aqueous) was heated at 100° C. in an inert atmosphere of nitrogen for 15 minutes. The cooled mixture was partitioned between EtOAc, ice, and brine and the organic phase was separated, washed with brine, dried over anhydrous Na2SO4, filtered and evaporated. The residue was purified by plate layer chromatography (PLC) using CH2Cl2 as the eluant to give 430 mg of the titled product.

reactant | 3-iodophenol | 3 mmol, 660 mg | IC=1C=C(C=CC1)O | C6H5IO
reactant | phenylboronic acid | 3.6 mmol, 439 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-Hydroxybiphenyl | 430 mg | OC=1C=C(C=CC1)C1=CC=CC=C1 | C12H10O
